US08309579B2
Step c) Formation of N-(benzyloxy)-N-{(2S)-2-[(4-biphenyl-4-ylpiperazin-1-yl)carbonyl]-4-methylpentyl}formamide
The title product was obtained following the protocol of Example 1 (step c), but starting from tert-butyl (benzyloxy){(2S)-2-[(4-biphenyl-4-ylpiperazin-1-yl)carbonyl]-4-methyl pentyl}carbamate (219 mg, 0.46 mmol) and a preformed mixture of formic acid (875 μL; 23.2 mmol; 50 eq.) and acetic anhydride (220 μl; 2.32 mmol; 5.0 eq.) (mixture formed at 0° C. for 30 min). Purification by column chromatography (Silicagel, gradient from 33% EtOAc up to 50% EtOAc in c-Hex) gave the title product as a white solid (120 mg, 52%). HPLC, Rt: 4.60 min (purity: 99.7%). M+ (LC-MS (ESI)): 500.4.

reactant | tert-butyl (benzyloxy){(2S)-2-[(4-biphenyl-4-ylpiperazin-1-yl)carbonyl]-4-methyl pentyl}carbamate | 0.46 mmol, 219 mg | C(C1=CC=CC=C1)ON(C(OC(C)(C)C)=O)C[C@H](CC(C)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C35H45N3O4
reactant | formic acid | 23.2 mmol, 875 μL, 50 eq. | C(=O)O | CH2O2
reactant | acetic anhydride | 2.32 mmol, 220 μl, 5.0 eq. | C(C)(=O)OC(C)=O | C4H6O3
product | N-(benzyloxy)-N-{(2S)-2-[(4-biphenyl-4-ylpiperazin-1-yl)carbonyl]-4-methylpentyl}formamide | 120 mg, 52% | C(C1=CC=CC=C1)ON(C=O)C[C@H](CC(C)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C31H37N3O3
